US07875618B2
2-Bromo-1-(3,5-difluoro-2-nitrophenyl)-4-methyl-1H-imidazole
A mixture of 1,3,5-trifluoro-2-nitrobenzene (2.2 mL, 18.6 mmol), 2-bromo-4-methylimidazole (3 g, 18.6 mmol) and K2CO3 (5.66 g, 41 mmol) in 80 mL DMF was stirred at room temperature overnight. The mixture was diluted with ethyl acetate and washed with water. Standard work up procedure followed by column purification using 10% ethyl acetate in dichloromethane as eluent provided 3.18 g (54% yield) of the product as a yellow powder. EIMS 317.9 [M+H]+.

reactant | 1,3,5-trifluoro-2-nitrobenzene | 18.6 mmol, 2.2 mL | FC1=C(C(=CC(=C1)F)F)[N+](=O)[O-] | C6H2F3NO2
reactant | 2-bromo-4-methylimidazole | 18.6 mmol, 3 g | BrC=1NC=C(N1)C | C4H5BrN2
reactant | K2CO3 | 41 mmol, 5.66 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Bromo-1-(3,5-difluoro-2-nitrophenyl)-4-methyl-1H-imidazole | 3.18 g, 54% yield | BrC=1N(C=C(N1)C)C1=C(C(=CC(=C1)F)F)[N+](=O)[O-] | C10H6BrF2N3O2
